US06465507B2
1-(2-Oxo-6-pyridin-3-yl-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one
6-Pyridin-3-yl-1,3-dihydro-indol-2-one was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 6-Pyridin-3-yl-1,3-dihydro-indol-2-one | N1=CC(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C13H10N2O
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 1-(2-Oxo-6-pyridin-3-yl-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | O=C1NC2=CC(=CC=C2C1=CC1=C2C(=CN1)C(OCC2)=O)C=2C=NC=CC2 | C21H15N3O3
